US07683066B2
A mixture of 1-(3-chloroisoquinolin-1-yl)piperidin-4-ylcarbamate (99 mg, 0.27 mmol), 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol (92 mg, 0.42 mmol), K3PO4 (0.17 g, 0.80 mmol), Pd(OAc)2 (3.9 mg, 17 μmol), Xantphos (6.6 mg, 11 μmol), toluene (1.3 mL), and water (0.1 mL) was sealed in a microwave vessel and heated by microwave irradiation at 150° C. for 10 minutes. The reaction was filtered and purified by reverse phase HPLC (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)) to yield isobutyl 1-(3-(2-hydroxyphenyl)isoquinolin-1-yl)piperidin-4-ylcarbamate. LC/MS: m/z 420.2 (M+H)+ at 3.79 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 1-(3-chloroisoquinolin-1-yl)piperidin-4-ylcarbamate | 0.27 mmol, 99 mg | ClC=1N=C(C2=CC=CC=C2C1)N1CCC(CC1)NC([O-])=O
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenol | 0.42 mmol, 92 mg | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | K3PO4 | 0.80 mmol, 0.17 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 11 μmol, 6.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd(OAc)2 | 17 μmol, 3.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 0.1 mL | O | H2O
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
product | isobutyl 1-(3-(2-hydroxyphenyl)isoquinolin-1-yl)piperidin-4-ylcarbamate | OC1=C(C=CC=C1)C=1N=C(C2=CC=CC=C2C1)N1CCC(CC1)NC(OCC(C)C)=O | C25H29N3O3
